US04762840
27.4 g of bromine in 87.5 ml of 95% v/v acetic acid were added dropwise to a stirred mixture of 25 g of 2-(p-aminophenyl)propionitrile [British Pat. No. 1,198,212], 66.8 g of potassium thiocyanate and 300 ml of 95% v/v acetic acid at ambient temperature. The mixture was then stirred at 50° C. for a further 2 hours before being poured into 1.5 liters of water. The solution obtained was filtered through celite and sodium bicarbonate was then added to the filtrate until no further precipitation occurred. The precipitate was collected and crystallized from methanol/water to give 19.4 g (56%) of 2-amino-α-methyl benzothiazole-6-acetonitrile as yellow prisms melting at 165.1° C.

reactant | bromine | 27.4 g | BrBr | Br2
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | 2-(p-aminophenyl)propionitrile | 25 g | NC1=CC=C(C=C1)C(C#N)C | C9H10N2
reactant | potassium thiocyanate | 66.8 g | [S-]C#N.[K+]
solvent | water | 1.5 liters | O | H2O
product | 2-amino-α-methyl benzothiazole-6-acetonitrile | 19.4 g, 56% | NC=1SC2=C(N1)C=CC(=C2)C(C#N)C | C10H9N3S
